US05886044
b) Preparation of 2-amino-6-n-propylphenol
To a solution of 2-nitro-6-n-propylphenol(2 g, 11.0 mmol) in methanol(100 mL) was added 10% Pd/C (200 mg). The mixture was flushed with argon, then hydrogen was bubbled through the solution for 10 min. and a hydrogen atmosphere was maintained at balloon pressure overnight. The mixture was filtered through celite and the celite was washed with methanol. The solvent was evaporated and chromatography of the resulting solid on silica gel (5% MeOH/CH2Cl2) gave the desired product(1.50 g, 80.2%). 1H NMR (CD3OD): δ 6.65 (m, 2H), 6.55 (t, 1H), 2.58 (t, 2H), 1.61 (m, 2H), 0.96 (t, 3H).

reactant | 2-nitro-6-n-propylphenol | 11.0 mmol, 2 g | [N+](=O)([O-])C1=C(C(=CC=C1)CCC)O | C9H11NO3
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 2-amino-6-n-propylphenol | 1.50 g, 80.2% | NC1=C(C(=CC=C1)CCC)O | C9H13NO
